Non_inverseur
*SPICE Netlist generated by Advanced Sim server on 09/02/2023 22:10:14
.options MixedSimGenerated

*Schematic Netlist:
RR41 0 Vf4 2k TC1=0 TC2=0
RR42 Vf4 Vout4 20k TC1=0 TC2=0
RRgen4 NetRgen4_1 Vin4 50 TC1=0 TC2=0
XU4A Vin4 Vf4 VDD VSS Vout4 LMC6482A
VV4 NetRgen4_1 0 DC 0 SIN(0 1 10k 0 0 0) AC 1 0
VV+? VDD 0 5
VV-? VSS 0 -5

.PLOT AC {dB(MAG(v(Vout4))/MAG(v(Vin4)))} =PLOT(1) =AXIS(1)

*Selected Circuit Analyses:
.AC DEC 10 1K 1G

*Cached Models and Subcircuits:
*//////////////////////////////////////////////////////////
*LMC6482A CMOS Dual OP-AMP MACRO-MODEL
*//////////////////////////////////////////////////////////
*
* connections:       non-inverting input
*                    |   inverting input
*                    |   |   positive power supply
*                    |   |   |   negative power supply
*                    |   |   |   |   output
*                    |   |   |   |   |
*                    |   |   |   |   |
.SUBCKT LMC6482A     1   2  99  50  40
*
* PINOUT ORDER +IN -IN V+ V- OUT
*
* CAUTION:  SET .OPTIONS GMIN=1E-16 TO CORRECTLY MODEL INPUT BIAS CURRENT.
*
*Features:
*Operates from single or dual supplies
*Rail-to-rail input and output swing
*Ultra low input current =             10fA
*Slew rate =                        1.2V/uS
*
*NOTE: Model is for single device only and simulated
*      supply current is 1/2 of total device current.
*      Noise is not modeled.
*      Asymmetrical gain is not modeled.
*
*****************INPUT STAGE**************
*
I1  99  4 17U
M1   5  2 4 99 MOSFET
R3   5 50 5.651K
M2   6  7 4 99 MOSFET
R4   6 50 5.651K
*Fp2=5.9 MHz
C4   5  6 2.3868P
G0  98  9 6 5 4.4165E-2
R0  98  9 1K
DP1  1 99 DA
DP2 50  1 DB
DP3  2 99 DB
DP4 50  2 DA
*For accurate Ib , set GMIN<=1E-16 on .OPTIONS line.
*
***********COMMON MODE EFFECT***********
*
I2  99 50 420.5U
*^Quiescent current
EOS  7  1 POLY(1) 16 49 .75E-3 1
*Offset voltage..........^
R8  99 49 40K
R9  49 50 40K
*
***************POLE STAGE***************
*
*Fp=13.3 MHz
G3  98 15 9 49 1E-3
R12 98 15 1K
C5  98 15 11.967P
*
************POLE/ZERO STAGE*************
*
*Fp=600 KHz, Fz= 1.4MHz
G5  98 18 15 49 1E-3
R14 98 18 1K
R15 98 19 750
C6  19 18 151.58P
*
*********COMMON-MODE ZERO STAGE*********
*
*Fpcm=20 KHz
G4  98 16 POLY(2) 1 49 2 49 0 2.812E-8 2.812E-8
L2  98 17 7.958M
R13 17 16 1K
*
**************SECOND STAGE**************
*
EH  99 98 99 49 1
G1  98 29 18 49 5.6667E-6
R5  98 29 100.37MEG
V2  99  8 1.56
D1  29  8 DX
D2  10 29 DX
V3  10 50 1.56
*
**************OUTPUT STAGE**************
*
F6  99 50 VA7 1
*^Dynamic supply current
F5  99 35 VA8 1
D3  36 35 DX
VA7 99 36 0
D4  35 99 DX
E1  99 37 99 49 1
VA8 37 38 0
G6  38 40 49 29 16.667E-3
R16 38 40 2.3886K
V4  30 40 .77
D5  30 99 DX
V5  40 31 .77
D6  50 31 DX
*Fp1=2.343 Hz
C3  29 39 17P
R6  39 40 1K
*
***************MODELS USED**************
*
.MODEL DA D(IS=2E-14)
.MODEL DB D(IS=1E-14)
.MODEL DX D(IS=1E-14)
.MODEL MOSFET PMOS(VTO=0 KP=1.842E-3)
.ENDS

.END